US05578620
4-phenylbutoxymethyloxirane
A procedure similar to that described in Preparation 46 was repeated, except that 5.00 g of 4-phenyl-1-butanol, 1.58 g of sodium hydride (as a 55% by weight dispersion in mineral oil), 3.9 ml of epibromohydrin and 110 ml of anhydrous dimethylformamide were used. The resulting crude product was purified by silica gel column chromatography, using an 8:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 3.83 g of the title compound as a colorless oil having an Rf value of 0.77 (on silica gel thin layer chromatography, using a 2:1 by volume mixture of hexane and ethyl acetate as the developing solvent).

reactant | 4-phenyl-1-butanol | 5.00 g | C1(=CC=CC=C1)CCCCO | C10H14O
reactant | sodium hydride | 1.58 g | [H-].[Na+]
reactant | epibromohydrin | 3.9 ml | C(Br)C1CO1 | C3H5BrO
solvent | dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
product | 4-phenylbutoxymethyloxirane | 3.83 g | C1(=CC=CC=C1)CCCCOCC1OC1 | C13H18O2
